US05545644
(R)-7-Bromo-5-(methylaminosulfonylmethyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole
To a chilled suspension of lithium aluminium hydride (47.89 g) in tetrahydrofuran (938 mL), (R)-3-(N-benzyloxycarbonylpyrrolidin-2-ylmethyl)-7-bromo-5-(methylaminosulfonylmethyl)-1H-indole (262.7 g) in tetrahydrofuran (1250 mL total) was added slowly dropwise. The reaction mixture was stirred at ambient temperature and then warmed to 40° C. until conversion was complete. Then, the mixture was cooled and quenched by slow addition of industrial methylated spirit (160 mL), followed by 4M aqueous sodium hydroxide solution (45 mL), then water (142 mL). The mixture was then filtered (through Arbacel). The filtered solids were reslurried in hot industrial methylated spirit (1600 mL) then refiltered. The filtered solids were then washed with a further portion of industrial methylated spirit (200 mL) and then again reslurried from hot industrial methylated spirit (1600 mL). The resultant slurry was again refiltered. The combined filtrates and washings were evaporated in vacuo to give a crude oil which was stirred in mixed water (1000 mL)/ethyl acetate (1000 mL). The aqueous phase was separated and washed with ethyl acetate (500 mL) (then the aqueous discarded) and then the ethyl acetate extracts combined and diluted with water (1000 mL) and the whole acidified (by addition of concentrated hydrochloric acid). The aqueous phase was separated and the organic phase washed with water (500 mL). These two aqueous phases were combined and made basic (by addition of 40% aqueous sodium hydroxide solution) and the product re-extracted with ethyl acetate (2×1000 mL), then again at pH9 with further ethyl acetate (500 mL). The combined ethyl acetate extracts were evaporated to an oil then reevaporated from acetone (250 mL) to give the title compound (200.7 g) as a semi-solid mass. TLC (diethyl ether/ethyl acetate/methanol/diethyl amine 50:50:5:5): Rf=0.26. 1H NMR (d6DMSO) δ11.05 (s, 1H), 7.5 (s, 1H), 7.3 (s, 1H), 7.2 (s, 1H), 6.85 (q, 1H), 4.35 (s, 2H), 2.95 (m, 2H), 2.55 (d, 3H), 2.5 (m, 1H), 2.35-2.3 (m, 1H and s, 3H), 2.1 (m, 1H), 1.75-1.4 (m, 4H).

reactant | lithium aluminium hydride | 47.89 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (R)-3-(N-benzyloxycarbonylpyrrolidin-2-ylmethyl)-7-bromo-5-(methylaminosulfonylmethyl)-1H-indole | 262.7 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)CC1=CNC2=C(C=C(C=C12)CS(=O)(=O)NC)Br | C23H26BrN3O4S
reactant | ethyl acetate | 1000 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 938 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1250 mL | O1CCCC1 | C4H8O
solvent | water | 1000 mL | O | H2O
product | (R)-7-Bromo-5-(methylaminosulfonylmethyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 200.7 g | BrC=1C=C(C=C2C(=CNC12)C[C@@H]1N(CCC1)C)CS(=O)(=O)NC | C16H22BrN3O2S
